US09302989B2
tert-butyl 4-(4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)phenyl)cyclohex-3-enylcarbamate
N-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide (1.692 g, 4.63 mmol), 4-(tert-butoxycarbonylamino)cyclohex-1-enyl trifluoromethanesulfonate (1.6 g, 4.63 mmol) and cesium carbonate (3.77 g, 11.58 mmol) were suspended in terahydrofuran (30 ml), methanol (5.00 ml) and water (15.00 ml). Nitrogen was bubbled throught the solution for 10 min when PdCl2(dppf)-dichloromethane adduct (0.189 g, 0.232 mmol) was added and the mixture was heated to 80° C. for 7 h. After dilution with ethyl acetate and brine, the separated aqueous layer was extracted several times with ethyl acetate and the combined organic layers were dried over magnesium sulfate, filtered and concentrated. Flash chromatography provided the title compound.

reactant | N-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | 4.63 mmol, 1.692 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1)C | C20H24BN3O3
reactant | 4-(tert-butoxycarbonylamino)cyclohex-1-enyl trifluoromethanesulfonate | 4.63 mmol, 1.6 g | FC(S(=O)(=O)OC1=CCC(CC1)NC(=O)OC(C)(C)C)(F)F | C12H18F3NO5S
reactant | cesium carbonate | 11.58 mmol, 3.77 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanol | 5.00 ml | CO | CH4O
solvent | terahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | PdCl2(dppf) dichloromethane | 0.232 mmol, 0.189 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | 15.00 ml | O | H2O
product | tert-butyl 4-(4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)phenyl)cyclohex-3-enylcarbamate | C1N(CC=2C=NC=CC21)C(=O)NC2=CC=C(C=C2)C2=CCC(CC2)NC(OC(C)(C)C)=O | C25H30N4O3
